US04795815
Under a nitrogen atmosphere, 2-[2-(allyloxycarbonylamino)thiazol-4-yl]-2-(Z)-methoxyiminoacetic acid (248 mg, 0.87 mmol) was suspended in methylene chloride (5 ml) and the suspension was cooled to 0° C. 2-Chloro-4,6-dimethoxy-1,3,5-triazine (153 mg, 0.87 mmol) then N-methylmorpholine (0.095 ml, 0.87 mmol) were added and the resultant solution was stirred at 0° C. for 30 minutes. A methylene chloride solution (10 ml) of allyl 3-(propionyl)-7-(R,S)-amino-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate hydrochloride (0.87 mmol) was added followed by the addition of N-methylmorpholine (0.095 ml, 0.87 mmol). The solution was allowed to warm gradually to room temperature over 1.5 hours and then the methylene chloride was removed in vacuo. The resultant residue was flash chromatographed on silica gel eluted with 10% hexane:ethyl acetate to give 270 mg, 57% yield of allyl 3-(propionyl)-7-(R,S)-[2-(2-(allyloxycarbonylamino)thiazol-4 -yl)-2-(Z)-methoxyiminoacetamido]-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate: n.m.r. (90 MHz, CDCl3): δ 1.11 (t, 3, J=7.2), 2.39-2.79 (m, 2), 3.09 (dd, 1, J=9 and 11.7), 3.95 (s, 3), 3.80-4.24 (m, 3), 4.42 (1/2ABq, 1, J=12.5), 4.60-4.96 (m, 4), 5.16-5.68 (m, 4), 5.72-6.22 (m, 2), 7.09 (s, 1), 8.28 (br.d, 1, J=7.2), 9.55 (br.s, 1); i.r. (CHCl3): 3230, 1733, 1679, 1554, 1423, 1377, 1353, 1044 cm-1 ; u.v. (EtOH): λhd max=208 (ε=21522), 228 (ε=22084), 261 (ε=13612), 365 (ε=8122); f.d.m.s. (m/e): M+ +1=547; m.p. 183°-186° C.

reactant | 2-[2-(allyloxycarbonylamino)thiazol-4-yl]-2-(Z)-methoxyiminoacetic acid | 0.87 mmol, 248 mg | C(C=C)OC(=O)NC=1SC=C(N1)/C(/C(=O)O)=N/OC | C10H11N3O5S
reactant | 2-Chloro-4,6-dimethoxy-1,3,5-triazine | 0.87 mmol, 153 mg | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | N-methylmorpholine | 0.87 mmol, 0.095 ml | CN1CCOCC1 | C5H11NO
reactant | allyl 3-(propionyl)-7-(R,S)-amino-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate hydrochloride | 0.87 mmol | Cl.C(CC)(=O)C1=C(N2C(C(CN2C1)N)=O)C(=O)OCC=C
reactant | N-methylmorpholine | 0.87 mmol, 0.095 ml | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | allyl 3-(propionyl)-7-(R,S)-[2-(2-(allyloxycarbonylamino)thiazol-4 -yl)-2-(Z)-methoxyiminoacetamido]-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate | 270 mg, 57% yield | C(CC)(=O)C1=C(N2C(C(CN2C1)NC(\C(=N/OC)\C=1N=C(SC1)NC(=O)OCC=C)=O)=O)C(=O)OCC=C | C23H26N6O8S
